US06579884B1
Synthesis of 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine
8-(2-methoxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine (0.14 g, 0.48 mmol) was solved in methylene chloride (9 ml) and the mixture was cooled to −73° C. Boron tribromide in methylene chloride (1M) (2.37 ml, 2.37 mmol) was added dropwise and the mixture was stirred for 20 h. in a nitrogen atmosphere and the temperature was allowed to raise to room temperature. The reaction mixture was cooled on ice and ice, water and methylene chloride were added. The organic layer was separated, washed with saturated sodium bicarbonate, dried and evaporated under reduced pressure to give 0.077 g (57%) of the title compound.

reactant | 8-(2-methoxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 0.48 mmol, 0.14 g | COC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C18H21N3O
reactant | Boron tribromide | B(Br)(Br)Br | BBr3
reactant | water | O | H2O
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.37 mmol, 1M, 2.37 ml | C(Cl)Cl | CH2Cl2
product | 8-(2-hydroxy-6-methylbenzylamino)-2,3-dimethylimidazo[1,2-a]pyridine | 0.077 g, 57% | OC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C17H19N3O
